US05614532
Dimethyl-3-carboxyphenyl acetic acid (870 mg) in 10 ml tetrahydrofuran was treated with lithium hydroxide (8.5 ml, 0.5M solution) at 0° C. After stirring at room temperature for 4 h, all solvent was evaporated, and the residue partitioned between saturated sodium hydrogen carbonate and ethyl acetate. The aqueous layer was separated, acidified (1N HCl) and extracted with dichloromethane (2×25 ml). The combined organic layers were dried (MgSO4) and solvent removed to leave 3-(carboxymethyl)phenyl acetic acid, mp 96°-98° C.

reactant | Dimethyl-3-carboxyphenyl acetic acid | 870 mg | CC(C(=O)O)(C1=CC(=CC=C1)C(=O)O)C | C11H12O4
reactant | lithium hydroxide | 0.5M, 8.5 ml | [OH-].[Li+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(carboxymethyl)phenyl acetic acid | C(=O)(O)CC=1C=C(C=CC1)CC(=O)O | C10H10O4
